US05498621
H. 3-Triphenylmethyl-5-(4-[2-cyclohexyl-5-methyloxazol-4-ylethoxy]benzyl)-2,4-oxazolidinedione
The product of Example 1G (870 mg), 2.0 g of 3-triphenylmethyl-5-(p-hydroxybenzyl)-2,4-oxazolidinedione and 1.31 g of triphenylphosphine were combined in 25 ml of dry tetrahydrofuran under a nitrogen atmosphere. To the resulting homogeneous solution was added 796 mg of diethyl azodicarboxylate dropwise at room temperature. After stirring for 27 hours, the reaction mixture was quenched with water (100 ml) and the solution extracted with ethyl acetate. The ethyl acetate layer was washed with a brine solution and dried over sodium sulfate. Removal of the solvent in vacuo gave a crude residue, which was chromatographed on silica gel (280 g) (toluene-dioxane; 9.4:0.6; v:v) to give 1.15 g of product.

reactant | 3-triphenylmethyl-5-(p-hydroxybenzyl)-2,4-oxazolidinedione | 2.0 g | C1(=CC=CC=C1)C(N1C(OC(C1=O)CC1=CC=C(C=C1)O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23NO4
reactant | triphenylphosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 796 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-Triphenylmethyl-5-(4-[2-cyclohexyl-5-methyloxazol-4-ylethoxy]benzyl)-2,4-oxazolidinedione | 1.15 g | C1(=CC=CC=C1)C(N1C(OC(C1=O)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H40N2O5
